US08835428B2
(S)-2-(2-(4-(3-(2,4-difluorophenyl)ureido)phenyl)thiazole-4-carboxamido)-3-methylbutanoic acid
To a solution of (S)-methyl 2-(2-(4-(3-(2,4-difluorophenyl)ureido)phenyl)thiazole-4-carboxamido)-3-methylbutanoate (100 mg, 0.204 mmol) in THF (4 mL)+MeOH (1 ml), 1 ml of 1N LiOH (42.99 mg, 1.024 mmol) was added at RT and stirred for 2-3 hr. After completion of reaction, THF was removed under reduced pressure. Obtained material was dissolved in water, acidified with 1N HCl and white solid precipitated out. It was filtered and dried.

reactant | (S)-methyl 2-(2-(4-(3-(2,4-difluorophenyl)ureido)phenyl)thiazole-4-carboxamido)-3-methylbutanoate | 0.204 mmol, 100 mg | FC1=C(C=CC(=C1)F)NC(NC1=CC=C(C=C1)C=1SC=C(N1)C(=O)N[C@H](C(=O)OC)C(C)C)=O | C23H22F2N4O4S
reactant | MeOH | 1 ml | CO | CH4O
reactant | LiOH | 1.024 mmol, 1N, 1 ml, 42.99 mg | [Li+].[OH-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (S)-2-(2-(4-(3-(2,4-difluorophenyl)ureido)phenyl)thiazole-4-carboxamido)-3-methylbutanoic acid | FC1=C(C=CC(=C1)F)NC(NC1=CC=C(C=C1)C=1SC=C(N1)C(=O)N[C@H](C(=O)O)C(C)C)=O | C22H20F2N4O4S
